US07456218B2
[2′-methyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-yl]methanol
2′-Methyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-carbaldehyde (13.6 g, 45.9 mmol) was dissolved in a mixture of 1,2-dimethoxyethane (70 mL) and tetrahydrofuran (70 mL), and sodium borohydride (0.870 g, 23.0 mmol) was added under ice-cooling. The mixture was stirred at the same temperature for 3 hrs. To the reaction mixture was added aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (15%-50% ethyl acetate/hexane) to give the title compound (12.2 g, yield 89%) as a colorless oil.

reactant | 2′-Methyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-carbaldehyde | 45.9 mmol, 13.6 g | CC1=C(C=CC(=C1)OC1OCCCC1)C1=CC(=CC=C1)C=O | C19H20O3
reactant | sodium borohydride | 23.0 mmol, 0.870 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1,2-dimethoxyethane | 70 mL | COCCOC | C4H10O2
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | [2′-methyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-yl]methanol | 12.2 g, yield 89% | CC1=C(C=CC(=C1)OC1OCCCC1)C1=CC(=CC=C1)CO | C19H22O3
